US07094780B1
2-(1-Benzyl-3-methoxymethylpyrrolidin-3-ylmethyl)isoindole-1,3-dione
A solution of (1-benzyl-3-methoxymethylpyrrolidin-3-yl)methanol (Example A19, 1.71 g, 7.27 mmol), triphenylphosphine (2.16 g, 8.22 mmol), phthalimide (1.14 g, 7.73 mmol), and anhydrous tetrahydrofuran is cooled to 0° C. and treated with diethyl azodicarboxylate (1.62 g, 9.31 mmol). The resulting mixture is stirred at room temperature for 18 hours and concentrated under vacuum. The residue is purified by flash column chromatography (1:5 ethyl acetate/hexanes) to afford the title compound, (0.58 g) as a solid. 1H NMR (200 MHz, CDCl3): δ 7.91–7.80 (m, 2H), 7.78–7.66 (m, 2H), 7.39–7.11 (m, 5H), 3.95–3.72 (m, 2H), 3.65–3.40 (m, 2H), 3.31 (s, 2H), 3.27 (s, 3H), 2.72–2.34 (m, 4H), 2.02–1.82 (m, 1H), 1.76–1.56 (m, 1H). MS ES: m/z 365 (MH+).

reactant | (1-benzyl-3-methoxymethylpyrrolidin-3-yl)methanol | 7.27 mmol, 1.71 g | C(C1=CC=CC=C1)N1CC(CC1)(COC)CO | C14H21NO2
reactant | triphenylphosphine | 8.22 mmol, 2.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 7.73 mmol, 1.14 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 9.31 mmol, 1.62 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(1-Benzyl-3-methoxymethylpyrrolidin-3-ylmethyl)isoindole-1,3-dione | 0.58 g | C(C1=CC=CC=C1)N1CC(CC1)(COC)CN1C(C2=CC=CC=C2C1=O)=O | C22H24N2O3
